US08476286B2
(4-isopropyl-phenyl)-{5-methoxy-2-[(pyridin-2-ylmethyl)-amino]-phenyl}-methanone
410 mg (2.97 mmol) potassium carbonate and 150 mg (0.59 mmol) 2-bromoethylpyridine hydrobromide are added to a solution of 160 mg (0.59 mmol) (2-amino-5-methoxy-phenyl)-(4-isopropyl-phenyl)-methanone in 3 ml acetone. The reaction mixture is stirred for 2 days at 90° C., diluted with ethyl acetate and extracted with brine. The organic layer is dried and evaporated. After chromatography (hexane/ethyl acetate) the product is obtained as yellow oil.

reactant | potassium carbonate | 2.97 mmol, 410 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromoethylpyridine hydrobromide | 0.59 mmol, 150 mg | Br.BrCCC1=NC=CC=C1
reactant | (2-amino-5-methoxy-phenyl)-(4-isopropyl-phenyl)-methanone | 0.59 mmol, 160 mg | NC1=C(C=C(C=C1)OC)C(=O)C1=CC=C(C=C1)C(C)C | C17H19NO2
solvent | acetone | 3 ml | CC(=O)C | C3H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (4-isopropyl-phenyl)-{5-methoxy-2-[(pyridin-2-ylmethyl)-amino]-phenyl}-methanone | C(C)(C)C1=CC=C(C=C1)C(=O)C1=C(C=CC(=C1)OC)NCC1=NC=CC=C1 | C23H24N2O2
